### PR TITLE
feat(ErdosProblems): 1062

### PR DESCRIPTION
**Pull request by conglu1997**
Closes https://github.com/google-deepmind/formal-conjectures/issues/1104 with the help of codex! :)

### CODE REVIEW

File: FormalConjectures/ErdosProblems/1062.lean [hunk 1]
```diff
@@ -0,0 +1,64 @@
...
+-/
+
+open Classical Filter
+
+namespace Erdos1062
+
+/-- A finite set `A` of positive integers is fork-free if no element divides
+two distinct other elements of `A`. -/
+def ForkFree (A : Finset ℕ) : Prop :=
+  ∀ a ∈ A, ((A.erase a).filter fun b => a ∣ b).card ≤ 1
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1062.lean]:
```suggestion
  ∀ a ∈ A, {b \in A.erase a | a ∣ b}.Subsingleton
```
is more idiomatic

File: FormalConjectures/ErdosProblems/1062.lean [hunk 2]
```diff
@@ -0,0 +1,64 @@
...
+
+/-- `Admissible A n` means that `A` is contained in `{1,...,n}` and is fork-free. -/
+def Admissible (A : Finset ℕ) (n : ℕ) : Prop :=
+  A ⊆ Finset.Icc 1 n ∧ ForkFree A
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1062.lean]: This definition doesn't seem very useful: inline it?

File: FormalConjectures/ErdosProblems/1062.lean [hunk 3]
```diff
@@ -0,0 +1,64 @@
...
+@[category research open, AMS 11]
+theorem erdos_1062.lower_bound (n : ℕ) : (2 * n) / 3 ≤ f n := by
+  sorry
+
+/-- Lebensold proved that for large `n`, the function `f n` lies between `0.6725 n` and
+`0.6736 n`. -/
+@[category research solved, AMS 11]
+theorem erdos_1062.lebensold_bounds :
+    ∃ N, ∀ ⦃n⦄, N ≤ n →
+      ((6725 : ℝ) / 10000) * n ≤ (f n : ℝ) ∧ (f n : ℝ) ≤ ((6736 : ℝ) / 10000) * n := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1062.lean]: Unless I'm wholly mistaken, this works
```suggestion
      (0.6725 : ℝ) * n ≤ f n ∧ f n ≤ (0.6736 : ℝ) * n := by
```

File: FormalConjectures/ErdosProblems/1062.lean [hunk 4]
```diff
@@ -31,14 +31,10 @@ two distinct other elements of `A`. -/
 def ForkFree (A : Finset ℕ) : Prop :=
   ∀ a ∈ A, {b \in A.erase a | a ∣ b}.Subsingleton
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1062.lean]:
```suggestion
  ∀ a ∈ A, {b ∈ A.erase a | a ∣ b}.Subsingleton
```

File: FormalConjectures/ErdosProblems/1062.lean [hunk 5]
```diff
@@ -31,14 +31,10 @@ two distinct other elements of `A`. -/
...
 
-/-- `Admissible A n` means that `A` is contained in `{1,...,n}` and is fork-free. -/
-def Admissible (A : Finset ℕ) (n : ℕ) : Prop :=
-  A ⊆ Finset.Icc 1 n ∧ ForkFree A
-
 /-- The extremal function from Erdős problem 1062: the largest size of a fork-free subset of
 `{1,...,n}`. -/
 def f (n : ℕ) : ℕ :=
-  Nat.findGreatest (fun k => ∃ A, Admissible A n ∧ A.card = k) n
+  Nat.findGreatest (fun k => ∃ A, A ⊆ Finset.Icc 1 n ∧ ForkFree A ∧ A.card = k) n
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1062.lean]:
```suggestion
  Nat.findGreatest (fun k => ∃ A ⊆ Finset.Icc 1 n, ForkFree A ∧ A.card = k) n
```

File: FormalConjectures/ErdosProblems/1062.lean (hunk 4 above)
Comment (CoolRmal) [reply FormalConjectures/ErdosProblems/1062.lean]: This will create a warning because we don't have`Finset.Subsingleton`...well why don't we just assume that `A` is a Set instead of a Finset in this definition?

Comment (YaelDillies) [reply FormalConjectures/ErdosProblems/1062.lean]: Sure, that's reasonable to me. Then you'll also need
```suggestion
  ∀ a ∈ A, {b ∈ A \ {a} | a ∣ b}.Subsingleton
```

File: FormalConjectures/ErdosProblems/1062.lean [hunk 6]
```diff
@@ -0,0 +1,60 @@
...
+/-- The extremal function from Erdős problem 1062: the largest size of a fork-free subset of
+`{1,...,n}`. -/
+def f (n : ℕ) : ℕ :=
+  Nat.findGreatest (fun k => ∃ A, A ⊆ Finset.Icc 1 n ∧ ForkFree A ∧ A.card = k) n
+
+/-- The interval `[m + 1, 3m + 2]` gives a construction showing that `f n` is asymptotically
+at least `2n / 3`. -/
+@[category research open, AMS 11]
+theorem erdos_1062.lower_bound (n : ℕ) : (2 * n) / 3 ≤ f n := by
+  sorry
```
Comment (CoolRmal) [inline FormalConjectures/ErdosProblems/1062.lean]: This shouldn't be too hard to formalize. Also I believe a slightly better version should hold: 

```suggestion
theorem erdos_1062.lower_bound (n : ℕ) : ⌈(2 * n / 3 : ℝ)⌉₊ ≤ f n := by
  sorry
```

**Comment by CoolRmal** [comment]
An important part of this conjecture is how large `f n` can be, which is not really formalized in this PR. Perhaps we can have sth like this?

```
theorem erdos_1062.asymptotics : (fun n => (f n : ℝ)) =Θ[atTop] (answer(sorry) : ℕ → ℝ) := by
  sorry
```
or 

```
theorem erdos_1062.asymptotics : (fun n => (f n : ℝ)) ~[atTop] answer(sorry) := by
  sorry
```

However, when an AI encounter this kind of problem, they will definitely cheat by picking `f` to be the answer, which is not really what we want (usually we expect sth `log n`, `log log n`, `n^2` to be our answer). I guess my real question is, how we should deal with this kind of growth problem in the future (because estimation of the growth rate appears frequently in other Erdos problems)?

**Comment by YaelDillies** [comment]
Our approach so far has been to stick to the concrete conjectures that were formulated.

However, my personal opinion is that we can do better: As you say, we expect the growth rate to be a combination of elementary functions: +, -, *, /, constants, possibly combined with some function going to 0 or infinity. Such functions can be defined inductively on their depth, and my vision is that we could state those "Estimate the growth of blah" questions as `\exists f : ElementaryFun atTop, blah ~[atTop] elementary`, `\exists elementary : ElementaryFun atTop, blah =o[atTop] elementary`, etc...

To avoid vacuous statements of the form `blah ~[atTop] blahAsElementaryFun` (which would be possible if `blah` goes to infinity, for example), one could even require `elementary` to have depth at least 1 and to not be "simplifiable" (to avoid `blah ~[atTop] (fun n => blahAsElementaryFun n + n - n)`.

File: FormalConjectures/ErdosProblems/1062.lean (hunk 5 above)
Comment (conglu1997) [reply FormalConjectures/ErdosProblems/1062.lean]: Adopted thank you!

**Comment by conglu1997** [comment]
Thanks so much for all the feedback, resolved! :)

File: FormalConjectures/ErdosProblems/1062.lean [hunk 7]
```diff
@@ -0,0 +1,60 @@
...
+def ForkFree (A : Finset ℕ) : Prop :=
+  ∀ a ∈ A, {b ∈ A \ {a} | a ∣ b}.Subsingleton
+
+/-- The extremal function from Erdős problem 1062: the largest size of a fork-free subset of
+`{1,...,n}`. -/
+def f (n : ℕ) : ℕ :=
+  Nat.findGreatest (fun k => ∃ A ⊆ Finset.Icc 1 n, ForkFree A ∧ A.card = k) n
+
+/-- The interval `[m + 1, 3m + 2]` gives a construction showing that `f n` is asymptotically
+at least `2n / 3`. -/
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1062.lean]: The website says floor, not ceil
```suggestion
at least `⌊2n / 3⌋`. -/
```

File: FormalConjectures/ErdosProblems/1062.lean [hunk 8]
```diff
@@ -0,0 +1,60 @@
...
+@[category research open, AMS 11]
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1062.lean]:
```suggestion
@[category research solved, AMS 11]
```

File: FormalConjectures/ErdosProblems/1062.lean [hunk 9]
```diff
@@ -0,0 +1,60 @@
...
+theorem erdos_1062.lower_bound (n : ℕ) : ⌈(2 * n / 3 : ℝ)⌉₊ ≤ f n := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1062.lean]:
```suggestion
theorem erdos_1062.lower_bound (n : ℕ) : 2 * n / 3 ≤ f n := by
```
Natural number division floors

File: FormalConjectures/ErdosProblems/1062.lean [hunk 10]
```diff
@@ -0,0 +1,60 @@
...
+  sorry
+
+/-- Lebensold proved that for large `n`, the function `f n` lies between `0.6725 n` and
+`0.6736 n`. -/
+@[category research solved, AMS 11]
+theorem erdos_1062.lebensold_bounds :
+    ∃ N, ∀ ⦃n⦄, N ≤ n →
+      (0.6725 : ℝ) * n ≤ f n ∧ f n ≤ (0.6736 : ℝ) * n := by
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1062.lean]: We have notation for this:
```suggestion
    ∀ᶠ n in atTop, (0.6725 : ℝ) * n ≤ f n ∧ f n ≤ (0.6736 : ℝ) * n := by
```

File: FormalConjectures/ErdosProblems/1062.lean (hunk 6 above)
Comment (YaelDillies) [reply FormalConjectures/ErdosProblems/1062.lean]: It certainly holds for large n because of the Lebensold bound, but the website really does state this using floor, not ceil, right?

**Comment by conglu1997** [comment]
Fixing build errors, switched A to Set instead of finite set in ForkFree

File: FormalConjectures/ErdosProblems/1062.lean [hunk 11]
```diff
@@ -23,18 +24,22 @@ import FormalConjectures.Util.ProblemImports
...
+  ∀ a ∈ A, ({b | b ∈ A \ {a} ∧ a ∣ b} : Set ℕ).Subsingleton
 
 /-- The extremal function from Erdős problem 1062: the largest size of a fork-free subset of
 `{1,...,n}`. -/
-def f (n : ℕ) : ℕ :=
-  Nat.findGreatest (fun k => ∃ A ⊆ Finset.Icc 1 n, ForkFree A ∧ A.card = k) n
+noncomputable def f (n : ℕ) : ℕ :=
+  Nat.findGreatest
+    (fun k =>
+      ∃ A : Set ℕ, A ⊆ (Finset.Icc 1 n : Set ℕ) ∧ A.Finite ∧ ForkFree A ∧ Nat.card A = k)
```
Comment (YaelDillies) [inline FormalConjectures/ErdosProblems/1062.lean]:
```suggestion
      ∃ A ⊆ Set.Icc 1 n, ForkFree A ∧ A.ncard = k)
```
`A` is necessarily finite if it is a subset of a finite set

**Comment by conglu1997** [comment]
Fixed!

File: FormalConjectures/ErdosProblems/1062.lean (hunk 6 above)
Comment (CoolRmal) [reply FormalConjectures/ErdosProblems/1062.lean]: The ceiling function is used in Guy's Unsolved Problems in Number Theory. Also it is not hard to see why the ceiling function is true. Consider the set

$$
\{\lfloor n / 3\rfloor+1,\lfloor n / 3\rfloor+2, \ldots, n\} .
$$

Its size is

$$
n-\lfloor n / 3\rfloor=\left\lceil2n/3\right\rceil .
$$

Comment (YaelDillies) [reply FormalConjectures/ErdosProblems/1062.lean]: Oh I see. Feel free to open a PR to change to the stronger bound!

In the future, if you claim something that goes against the website, please make it clear that you know you are doing so. My prior is that the website is correct

Comment (conglu1997) [reply FormalConjectures/ErdosProblems/1062.lean]: Thank you for the very kind advice, I have opened a PR now for this :) 

https://github.com/google-deepmind/formal-conjectures/pull/1495

Comment (CoolRmal) [reply FormalConjectures/ErdosProblems/1062.lean]: @YaelDillies Ok I'll make it more clear next time.
